US03968116
5-Fluoro-3-nitro-2-aminopyridine is reacted with 2,2,3-trifluoropropionic anhydride to obtain 5-fluoro-3-nitro-2-(2,2,3-trifluoropropionamido)pyridine which on hydrogenation over palladium on carbon yields 6-fluoro-1-hydroxy-2-(1,1,2-trifluoroethyl)-1H-imidazo(4,5-b)pyridine.

reactant | 5-Fluoro-3-nitro-2-aminopyridine | FC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4FN3O2
reactant | 2,2,3-trifluoropropionic anhydride | FC(C(=O)OC(C(CF)(F)F)=O)(CF)F | C6H4F6O3
catalyst | palladium on carbon | [Pd] | Pd
product | 5-fluoro-3-nitro-2-(2,2,3-trifluoropropionamido)pyridine | FC=1C=C(C(=NC1)NC(C(CF)(F)F)=O)[N+](=O)[O-] | C8H5F4N3O3
